US06407102B1
3-(2-(4-(1H-2-Indolyl)butyl)-1H-3-indolyl)-1-methyl-2,5-pyrrolidinedione
A solution of 240 mg (0.50 mmol) of 3-bromo-4-(2-(4-(1H-2-indolyl)butyl)-1H-3-indolyl)-1-methyl-2,5-dihydro-1H-pyrrole-2,5-dione and 140 mg (0.25 mmol) of Pd(OH)2/C (20%) in 30 ml of MeOH is stirred under an H2 atmosphere at room temperature for 24 h. For work-up, the mixture is filtered, the filtrate is concentrated and the residue is purified by column chromatography (SiO2:CH2Cl2/EA 95:5). On concentrating the pure fraction, the product is crystallized by addition of PE. Yield: 48.0 mg (24%), beige powder

reactant | 3-bromo-4-(2-(4-(1H-2-indolyl)butyl)-1H-3-indolyl)-1-methyl-2,5-dihydro-1H-pyrrole-2,5-dione | 0.50 mmol, 240 mg | BrC=1C(N(C(C1C1=C(NC2=CC=CC=C12)CCCCC=1NC2=CC=CC=C2C1)=O)C)=O | C25H22BrN3O2
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.25 mmol, 140 mg | [OH-].[OH-].[Pd+2]
product | 3-(2-(4-(1H-2-Indolyl)butyl)-1H-3-indolyl)-1-methyl-2,5-pyrrolidinedione | N1C(=CC2=CC=CC=C12)CCCCC=1NC2=CC=CC=C2C1C1C(N(C(C1)=O)C)=O | C25H25N3O2
